2189-09-07 16:31:00 Physician Resident Progress Note
Chief Complaint: pus on HD line
   24 Hour Events:
   Continued to be febrile overnight and was given dose of gentamicin for
   rigors.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2189-9-7**] 02:49 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-9-7**] 12:00 AM
   Morphine Sulfate - [**2189-9-7**] 11:00 AM
   Haloperidol (Haldol) - [**2189-9-7**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-9-7**] 04:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.5
C (99.5
   HR: 75 (75 - 113) bpm
   BP: 103/51(63) {83/36(49) - 143/90(107)} mmHg
   RR: 21 (5 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                    823 mL
                                                                  1,103 mL
   PO:
                                                                    720 mL
                                                                    840 mL
   TF:
   IVF:
                                                                    103 mL
                                                                    263 mL
   Blood products:
   Total out:
                                                                    985 mL
                                                                    740 mL
   Urine:
                                                                    985 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -163 mL
                                                                    363 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Sleeping and drowsy but rousable.  Knew month but not year and
   remembers that [**Last Name (un) 1397**] is running for president.  Knows he is not at the
   [**Hospital1 987**] but cannot remember correct name of hospital.  Shaking somewhat
   and c/o feeling cold, ? rigors.
   Tunneled HD line has been removed, site not tender.  Left subclavian in
   place and not tender.
   MMM
   S1, S2, RRR, +systolic murmur
   Lungs are clear b/l, no crackles appreciated, on room air
   Abd soft and not tender.
   LE is cool to touch
   Hands have multiple amputated fingers and his left hand may have dry
   gangrene, no erythema or pus.
   Labs / Radiology
   174 K/uL
   10.7 g/dL
   146 mg/dL
   8.2 mg/dL
   24 mEq/L
   4.9 mEq/L
   62 mg/dL
   97 mEq/L
   134 mEq/L
   30.4 %
   15.2 K/uL
        [image002.jpg]
                            [**2189-9-6**]  12:02 PM
                            [**2189-9-6**]  02:00 PM
                            [**2189-9-6**]  02:06 PM
                            [**2189-9-6**]  06:51 PM
                            [**2189-9-6**]  10:00 PM
                            [**2189-9-7**]  04:09 AM
   WBC
   24.7
   15.2
   Hct
   33.3
   30.4
   Plt
   199
   174
   Cr
   7.4
   8.2
   Glucose
   134
   116
   154
   194
   138
   146
   Other labs: PT / PTT / INR:13.9/28.7/1.2, ALT / AST:24/17, Alk Phos / T
   Bili:82/0.2, Lactic Acid:1.8 mmol/L, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   54y/o M with PMH of ESRD on HD and PVD admitted with line sepsis, now
   s/p removal of tunneled HD catheter.
   # Line Sepsis:
   Tunneled line was removed [**9-6**] and had frank pus.  Blood Cx from [**Hospital 1373**]
   hospital growing staph aureus, awaiting sensitivities.  He remains
   hemodynamically stable.  Other source of fever could potentially be
   gangrene in left hand.
   - continue to follow cultures here and at [**Hospital 1373**] hospital
   - continue vancomycin with HD
   - as vanc trough is low, will give extra 1g dose of vancomycin x 1
   today
   - received gentamicin x 1 overnight; no data to support continue
   gentamicin today
   - monitor VS for evidence of sepsis physiology
   - plan to remove subclavian catheter today and give him 24 hour line
   holiday (subclavian was placed prior to removal of tunneled HD line)
   - check TTE for vegetations
   # Altered mental status:
   Most likely multifactorial in setting of infection, sedating
   medications, and ? h/o seizure (which has been worked up at [**Hospital3 373**]
   Hospital in the past).
   - Hold all sedating meds
   - Treat underlying infection as above
   - Monitor on telemetry
   - Obtain [**Hospital3 373**] records re: seizure workup
   - may also develop symptoms of uremia as dialysis is deferred
   # PVD/CAD:
   - continue plavix
   - obtain plain films of hand; appreciate vascular surgery recs
   - Transplant surgery following
   # ESRD on HD
   - appreciate renal recs
   - continue renal meds
   # IDDM
   - SSI, continue Lantus, FSG qid, DM diet
   # FEN:
   - IVF for CVP goal >14
   - replete electrolytes
   # Prophylaxis:
   - Subcutaneous heparin,
   # Access: L SC; obtain PIVs and give him 24 hour line holiday
   # Code:
   - presumed full
   # Communication:
   -- with patient and son
   # Disposition: ICU for now
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 768**]
s note above
   and agree with the findings and plan of care.  I would add the
   following:
   Mr [**Known lastname 1406**]
[**Last Name (Titles) 1407**] cultures are positive, not surprisingly and vanc
   levels are being checked today, and ceftaz being stopped.  His left
   subclaian line will be d/c
d as it may well have become seeded.
   Echocardiogram will be ordered.
   We will work with renal to decide on HD access.  Right now paient has
   asterixis and creat = 8.2, so I suspect we will not be able to wait
   that much longer.  Fortunately he is not acidotic or fluid overloaded.
   [**First Name8 (NamePattern2) 548**] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2189-9-7**] 17:04 ------

2189-09-08 05:23:00 Physician Resident Progress Note
Chief Complaint: -Renal Recs: continue vancomycin; will reassess [**9-8**]
   for HD
   -Surgery Recs: Pt not canididate for AV fistula at this time. Suggests
   temp HD line for next few HD sessions and to have permacath placed by
   IR once bacteremia resolved.
   -Social Work: consulted for [**9-8**].
   -Pulled L subclavian, sent for culture; established 2 18 gauge [**Hospital 1416**]
   [**Hospital 1412**] Medical Record request form to OSH, no info yet.
   This am, pt reports he is feeling
better
. Still feels cold, but no
   chills. Denies pain, CP, SOB.
   24 Hour Events:
 MULTI LUMEN - STOP [**2189-9-7**] 11:38 AM
 BLOOD CULTURED - At [**2189-9-7**] 08:54 PM
   from central line
 FEVER - 101.9
F - [**2189-9-7**] 12:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2189-9-7**] 02:49 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2189-9-7**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2189-9-7**] 10:00 PM
   Morphine Sulfate - [**2189-9-7**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-9-8**] 05:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: (101.9
   101.7 2300
   Tcurrent: 36.7
C (98
   HR: 75 (68 - 102) bpm
   BP: 155/73(93) {94/49(62) - 155/96(107)} mmHg
   RR: 17 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                  1,500 mL
                  PO:
                                                                  1,200 mL
                  TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    315 mL
   Urine:
                                                                  1,070 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    430 mL
                                                                   -315 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   Gen: Sitting up in chair, somnolent, but arousable, speaking in full
   sentences, answering questions appropriately.  Somewhat tremulous, c/o
   cold, but no chills
   HEENT: Op clear. No exudate. MMM.
   CV: RRR. S1, S2, + 2/6 systolic murmur
   Chest: CTA anteriorly. R Tunneled HD line has been removed with minimal
   tenderness.  Left subclavian removed and not tender. Dsg C/D/I
   Abd: soft and not tender. +BS
   Ext: No c/c/e. R BKA. ?Some tenderness L3rd, 4^th digits s/p amp. No
   tenderness R hand. No pus on L hand
   Neuro: Alert, awake, oriented to month, date, year, place although took
   approx. 2-3 minutes to recall name of hospital
   Labs / Radiology
   159 K/uL
   10.3 g/dL
   205 mg/dL
   8.9 mg/dL
   24 mEq/L
   5.2 mEq/L
   69 mg/dL
   96 mEq/L
   133 mEq/L
   30.0 %
   8.6 K/uL
        [image002.jpg]   AM LABS: Na 136 K 5.2 Cl 97 HCO3 23 BUN 76
   Cr 8.9 Glucose  205 WBC 7.3 HCT 35.2 Plt 166 C9.8 Mg 2.5 Phos 5.7
                            [**2189-9-6**]  12:02 PM
                            [**2189-9-6**]  02:00 PM
                            [**2189-9-6**]  02:06 PM
                            [**2189-9-6**]  06:51 PM
                            [**2189-9-6**]  10:00 PM
                            [**2189-9-7**]  04:09 AM
                            [**2189-9-7**]  05:16 PM
   WBC
   24.7
   15.2
   8.6
   Hct
   33.3
   30.4
   30.0
   Plt
   199
   174
   159
   Cr
   7.4
   8.2
   8.9
   Glucose
   134
   116
   154
   194
   138
   146
   205
   Other labs: PT / PTT / INR:13.9/28.7/1.2, ALT / AST:24/17, Alk Phos / T
   Bili:82/0.2, Lactic Acid:1.8 mmol/L, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.9 mg/dL
   Micro: 10/12 [**2-27**] blood cx GPC clusters
   [**9-6**] blood cx NGTD [**9-6**] Tip cx NGGTD, [**9-7**] tip cx NGTD, 10/13 [**9-8**]
   bl cx NGTD
   Assessment and Plan
   54y/o M with PMH of ESRD on HD and PVD admitted with line sepsis, now
   s/p removal of tunneled HD catheter.
   # Line Sepsis: Tunneled line was removed [**9-6**] and had frank pus.
   Blood Cx from [**Hospital 1373**] hospital growing staph aureus, awaiting
   sensitivities.  Initial blood cx here growing GPC clusters, likely
   staph, concern for MRSA given pt on HD. He remains hemodynamically
   stable.  Other source of fever could potentially be gangrene in left
   hand although per vascular does not appear infected.
   - continue to follow cultures here and at [**Hospital 1373**] hospital
   - continue vancomycin with HD
   - as vanc trough was low, given extra 1g dose of vancomycin x 1 today,
   will follow levels
   - monitor VS for evidence of sepsis physiology, still febrile but BP
   stable
   - on 24 hour line holiday (subclavian was placed prior to removal of
   tunneled HD line)
   - check TTE for vegetations, ordered but not yet done
   # Altered mental status:
   Most likely multifactorial in setting of infection, sedating
   medications, and ? h/o seizure (which has been worked up at [**Hospital3 373**]
   Hospital in the past). MS improved today, fully oriented, was only
   oriented to place before
   - Hold all sedating meds
   - Treat underlying infection as above, seems to have improved as
   infection being treated
   - Monitor on telemetry
   - Obtain [**Hospital3 373**] records re: seizure workup
   - may also develop symptoms of uremia as dialysis is deferred
   # PVD/CAD:
   - continue plavix
   - F/U read plain films of hand; appreciate vascular surgery recs
   - Transplant surgery following
   # ESRD on HD
   - appreciate renal recs, will assess need for HD today
   - continue renal meds (Sevelamer, nephrocaps)
   # IDDM
   - SSI, continue Lantus, FSG qid, DM diet
   # FEN:
   - replete electrolytes
   - DM diet
   # Prophylaxis:
   - Subcutaneous heparin, OOB, omeprazole, prn bowel regimen
   # Access: 18g PIV, 24 hour line holiday ,will need temp line placed for
   HD if renal assesses need for HD today
   # Code:
   - presumed full
   # Communication:
   -- with patient and son
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2189-9-7**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-09-08 12:19:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No hemodynamic compromise overnight.
   Mental status improved, improved oriention to place.
   Offers no new complaints.
 MULTI LUMEN - STOP [**2189-9-7**] 11:38 AM
 BLOOD CULTURED - At [**2189-9-7**] 08:54 PM
   from central line
 BLOOD CULTURED - At [**2189-9-8**] 05:30 AM
   from peripheral stick
 FEVER - 101.9
F - [**2189-9-7**] 12:00 PM
 CALLED OUT
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2189-9-7**] 02:49 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2189-9-7**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2189-9-7**] 10:00 PM
   Morphine Sulfate - [**2189-9-8**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2189-9-8**] 12:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 36.8
C (98.2
   HR: 86 (68 - 99) bpm
   BP: 128/79(89) {99/49(62) - 155/96(100)} mmHg
   RR: 17 (12 - 39) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                  1,500 mL
                                                                    360 mL
   PO:
                                                                  1,200 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    655 mL
   Urine:
                                                                  1,070 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    430 mL
                                                                   -295 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   12.0 g/dL
   166 K/uL
   95 mg/dL
   9.8 mg/dL
   23 mEq/L
   5.2 mEq/L
   76 mg/dL
   97 mEq/L
   136 mEq/L
   35.2 %
   7.3 K/uL
        [image002.jpg]
                            [**2189-9-6**]  12:02 PM
                            [**2189-9-6**]  02:00 PM
                            [**2189-9-6**]  02:06 PM
                            [**2189-9-6**]  06:51 PM
                            [**2189-9-6**]  10:00 PM
                            [**2189-9-7**]  04:09 AM
                            [**2189-9-7**]  05:16 PM
                            [**2189-9-8**]  05:30 AM
   WBC
   24.7
   15.2
   8.6
   7.3
   Hct
   33.3
   30.4
   30.0
   35.2
   Plt
   199
   174
   159
   166
   Cr
   7.4
   8.2
   8.9
   9.8
   Glucose
   134
   116
   154
   194
   138
   146
   205
   95
   Other labs: PT / PTT / INR:13.9/28.7/1.2, ALT / AST:24/17, Alk Phos / T
   Bili:82/0.2, Lactic Acid:1.8 mmol/L, Ca++:9.8 mg/dL, Mg++:2.5 mg/dL,
   PO4:5.7 mg/dL
   Assessment and Plan
   Sepsis, MRSA, line-related.
   SEPSIS -- clinically improved.  Hemodynamically stable.  Continue
   current level of care.
   BACTEREMIA -- GPC identified as MRSA (outside hospital).  Continue
   antimicrobials (esp. Vancomycin), monitor level.  Cardiac echo and
   repeat blood cultures.
   LEFT HAND, 4th DIGIT ABNORMALITY -- radiographic concern for
   osteomyelitis.  Vascular Surgery to f/u.
   ALTERED MENTAL STATUS -- clininicaly improved.  Likely related to
   sepsis and medications.  Monitor.
   RENAL FAILURE -- no clinical indication for acute dialysis.  Continue
   line "holiday."  Plan to insert new line if blood cultures clear and
   echo negative.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2189-9-7**] 02:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments: Discussed with patient at bedside.
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes